US06258360B1
tert-Butyl Ethynsulfonate (75)
A solution of ethynylmagnesium chloride in THF (0.5M, 10 mmol) is added to a solution of sulfuryl chloride (20 mmol) in 100 mL of THF cooled to −78° C. After 1 hour, a solution of tert-butanol (60 mmol) and triethylamine (60 mmol) in 50 mL of THF is added dropwise. The solution is allowed to warm to room temperature, the volatile components are evaporated in vacuo, the residue is partitioned between ether (150 mL) and 0.05M HCl (50 mL), the organic phase is washed with brine (50 mL) and dried over MgSO4, and the volatile components are evaporated in vacuo. The residue is purified by flash chromatography to give the product as a colorless oil.

reactant | ethynylmagnesium chloride | C(#C)[Mg]Cl
reactant | sulfuryl chloride | 20 mmol | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | tert-butanol | 60 mmol | C(C)(C)(C)O | C4H10O
reactant | triethylamine | 60 mmol | C(C)N(CC)CC | C6H15N
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mmol, 0.5M | C1CCOC1 | C4H8O
product | tert-Butyl Ethynsulfonate | C(#C)S(=O)(=O)OC(C)(C)C | C6H10O3S
